US04220603
To 6.0 g of 2-[4-(4-carboxypiperidino)butoxy]bibenzyl hydrochloride was added dropwise 15 ml of thionyl chloride with stirring. The reaction mixture was stirred at room temperature for 3 hours. As the reaction proceeded the reaction mixture became homogenous. Upon completion of the reaction, anhydrous ether was added and the resultant oily product was washed well twice or three times with anhydrous ether. To the washed oil was added anhydrous ether and the mixture was allowed to stand yielding crystalline 2-[4-(4-chlorocarbonylpiperidino)butoxy]bibenzyl hydrochloride which was sufficiently dried for use in the subsequent reaction. To a solution of 10 ml of 50% aqueous dimethylamine solution and 10 ml of tetrahydrofuran cooled in an ice-salt bath was quickly added 1.5 g of crystalline 2-[4-(4-chlorocarbonylpiperidino)butoxy]bibenzyl hydrochloride with stirring. The mixture was allowed to react for 1.5 hours and then concentrated. To the concentrate was added 2N-NaOH aqueous solution and the product was extracted with ether. The extract from ether was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. To the ether solution was added 20% ethanolic hydrogen chloride to yield a precipitate. Recrystallization from etherethanol gave 1.2 g (78% yield) of 2-[4-(4-dimethylcarbamoylpiperidino)butoxy]bibenzyl hydrochloride, m. p. 139°-160° C.

reactant | 2-[4-(4-carboxypiperidino)butoxy]bibenzyl hydrochloride | 6.0 g | Cl.C(=O)(O)C1CCN(CC1)CCCCOC1=C(C=CC=C1)CCC1=CC=CC=C1
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ether | CCOCC | C4H10O
product | 2-[4-(4-chlorocarbonylpiperidino)butoxy]bibenzyl hydrochloride | Cl.ClC(=O)C1CCN(CC1)CCCCOC1=C(C=CC=C1)CCC1=CC=CC=C1 | InChI=1S/C24H30ClNO2.ClH/c25-24(27)22-14-17-26(18-15-22)16-6-7-19-28-23-11-5-4-10-21(23)13-12-20-8-2-1-3-9-20;/h1-5,8-11,22H,6-7,12-19H2;1H
